US09120825B2
In an argon atmosphere, 3.98 g (17.1 mmol) of Si(tBuNCHCHNtBu)(H)Cl was dissolved in 20 mL of hexane. The resulting solution was deaerated by Freeze-Pump-Thaw cycling and after creating a dimethylamine atmosphere in the reaction vessel by connecting thereto a balloon having an internal volume of 5 L and being filled with dimethylamine, the solution was stirred at room temperature for 20 hours. Insoluble matters produced were separated by filtration, and the solvent was removed by distillation from the filtrate under atmospheric pressure. The obtained residue was distilled under reduced pressure (distillation temperature: 84° C./4.7×102 Pa) to obtain 1,3-di-tert-butyl-2-dimethylamino-1,3-diaza-2-silacyclopent-4-ene (Si(tBuNCHCHNtBu)(H)NMe2) as a colorless liquid (yielded amount: 3.76 g, yield: 91%).

reactant | 2-chloro-1,3-di-tert-butyl-1,3-diaza-2-silacyclopent-4-ene | 17.1 mmol, 3.98 g | Cl[SiH]1N(C=CN1C(C)(C)C)C(C)(C)C | C10H21ClN2Si
reactant | dimethylamine | CNC | C2H7N
solvent | hexane | 20 mL | CCCCCC | C6H14
product | 1,3-di-tert-butyl-2-dimethylamino-1,3-diaza-2-silacyclopent-4-ene | yield: 91% | C(C)(C)(C)N1[SiH](N(C=C1)C(C)(C)C)N(C)C | C12H27N3Si
